US08110580B2
7-Butyl-3-[3-chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Add 5-(5-bromo-4-chloro-thiophen-2-yl)-1-methyl-1H-[1,2,4]triazole (169 mg, 0.61 mmol) to anhydrous THF (5 mL). Cool to −78° C. Add tert-butyl lithium (0.81 mL, 1.37 mmol, 1.7 M in pentane). Stir for 45 min and then add zinc chloride (1.5 mL, 1.76 mmol, 0.5 M in THF) slowly. Stir for 5 min, then warm to room temperature and stir for 15 min. Add bis(tri-t-butylphosphine)palladium (0) (62 mg, 0.12 mmol) and 7-butyl-3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (200 mg, 0.61 mmol). Heat to reflux overnight. Filter the reaction through Celite® and concentrate to dryness. Purify using silica gel column chromatography, eluting with 0-50% ethyl acetate in hexane, to give the title compound (36 mg, 15%). ES/MS m/z (35Cl) 401 (M+1)+.

reactant | 5-(5-bromo-4-chloro-thiophen-2-yl)-1-methyl-1H-[1,2,4]triazole | 0.61 mmol, 169 mg | BrC1=C(C=C(S1)C1=NC=NN1C)Cl | C7H5BrClN3S
reactant | tert-butyl lithium | 1.37 mmol, 1.7 M, 0.81 mL | C(C)(C)(C)[Li]
reactant | 7-butyl-3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 0.61 mmol, 200 mg | C(CCC)C1=CC(=NC=2N1N=C(C2I)C)C | C12H16IN3
catalyst | zinc chloride | 1.76 mmol, 0.5 M, 1.5 mL | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 mmol, 62 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-Butyl-3-[3-chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 36 mg, 15% | C(CCC)C1=CC(=NC=2N1N=C(C2C=2SC(=CC2Cl)C=2N(N=CN2)C)C)C | C19H21ClN6S
